US07612108B2
(4-Benzyloxy-3-cyanophenyl)boronic acid and methyl 4,5-dibromo-3-fluorothiophene-2-carboxylate were dissolved in a mixed solution of toluene and a 1 M aqueous sodium carbonate solution and the whole was heated at 110° C. for 2.5 days in the presence of tetrakis(triphenylphosphine)-palladium to obtain methyl 4-bromo-5-(4-benzyloxy-3-cyanophenyl)-3-fluorothiophene-2-carboxylate. Methyl 4-bromo-5-(4-benzyloxy-3-cyanophenyl)-3-fluorothiophene-2-carboxylate and triethylamine were stirred at room temperature in 1,4-dioxane under a hydrogen atmosphere at normal pressure in the presence of palladium-carbon to obtain methyl 5-(3-cyano-4-hydroxyphenyl)-3-fluorothiophene-2-carboxylate. FN: 276.

reactant | Methyl 4-bromo-5-(4-benzyloxy-3-cyanophenyl)-3-fluorothiophene-2-carboxylate | BrC=1C(=C(SC1C1=CC(=C(C=C1)OCC1=CC=CC=C1)C#N)C(=O)OC)F | C20H13BrFNO3S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | palladium-carbon | [C].[Pd]
product | methyl 5-(3-cyano-4-hydroxyphenyl)-3-fluorothiophene-2-carboxylate | C(#N)C=1C=C(C=CC1O)C1=CC(=C(S1)C(=O)OC)F | C13H8FNO3S
